US07202245B2
4-Isopropylamino-7-(4-methyl-piperazin-1-ylmethyl)-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
A solution of isopropyl-[1-methoxy-7-(4-methyl-piperazin-1-ylmethyl)-[1,2,4]triazolo[4,3-a]quinoxalin-4-yl]amine (12 mg) in AcOH (1 mL) and 48% HBr (0.5 mL) was stirred at 23° C. for 90 min., then was heated to 90° C. for 100 min. After cooling to 23° C., the solution was concentrated. The resulting residue was concentrated from toluene. Trituration of the residue with MeOH/EtOAc afforded the title compound as a light yellow solid. MS (M+H)+=356.4.

reactant | isopropyl-[1-methoxy-7-(4-methyl-piperazin-1-ylmethyl)-[1,2,4]triazolo[4,3-a]quinoxalin-4-yl]amine | 12 mg | C(C)(C)NC=1C=2N(C3=CC=C(C=C3N1)CN1CCN(CC1)C)C(=NN2)OC | C19H27N7O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
solvent | HBr | 0.5 mL | Br | BrH
product | 4-Isopropylamino-7-(4-methyl-piperazin-1-ylmethyl)-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | C(C)(C)NC=1C=2N(C3=CC=C(C=C3N1)CN1CCN(CC1)C)C(NN2)=O | C18H25N7O
